US05981525
5-Methoxyindole-2-carboxaldehyde (1.5 g, 8.5 mmol) was dissolved in dry toluene (30 ml) and treated with (formylmethylene)triphenylphosphorane (3 g, 9.8 mmol). The reaction mixture was stirred at 85° C. for 5 h, allowed to cool and chromatographed over silica gel using hexane/EtOAc (7:3). Evaporation of the solvent yielded 0.45 g (26 %) of (E)-3-(5-methoxy-2-indolyl)-2-propenaldehyde, m.p.=145-147° C.

reactant | 5-Methoxyindole-2-carboxaldehyde | 8.5 mmol, 1.5 g | COC=1C=C2C=C(NC2=CC1)C=O | C10H9NO2
reactant | (formylmethylene)triphenylphosphorane | 9.8 mmol, 3 g | C(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H17OP
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-3-(5-methoxy-2-indolyl)-2-propenaldehyde | 0.45 g, 26 % | COC=1C=C2C=C(NC2=CC1)/C=C/C=O | C12H11NO2
